US07138414B2
a) 1-(3-fluoro-4-nitrophenyl)-1H-[1,2,4]triazole
The mixture consisting of 2.5 g of 3-fluoro-4-nitrophenylhydrazine, 1.2 g of [1,2,3]triazine and 50 ml of ethanol was heated to reflux with stirring for 6 hours. After concentrating the reaction mixture under reduced pressure, the residue was worked up by column chromatography (solvent: 99:1 dichloromethane:methanol; silica gel).

reactant | 3-fluoro-4-nitrophenylhydrazine | 2.5 g | FC=1C=C(C=CC1[N+](=O)[O-])NN | C6H6FN3O2
reactant | [1,2,3]triazine | 1.2 g | N1=NN=CC=C1 | C3H3N3
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 1-(3-fluoro-4-nitrophenyl)-1H-[1,2,4]triazole | FC=1C=C(C=CC1[N+](=O)[O-])N1N=CN=C1 | C8H5FN4O2
